US06919336B2
[4-(2,4-Difluoro-phenylamino)-phenyl]-{5-[(E)-2-(4-hydroxy-1-methyl-piperidin-4-yl)-vinyl]-2-methoxy-phenyl}-methanone
The title compound is prepared analogously to example 9 from (5-bromo-2-methoxy-phenyl)-[4-(2,4-difluoro-phenylamino)-phenyl]-methanone and 1-methyl-4-((E)-2-tributylstannanyl-vinyl)-piperidin-4-ol.

reactant | (5-bromo-2-methoxy-phenyl)-[4-(2,4-difluoro-phenylamino)-phenyl]-methanone | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)NC1=C(C=C(C=C1)F)F)OC | C20H14BrF2NO2
reactant | 1-methyl-4-((E)-2-tributylstannanyl-vinyl)-piperidin-4-ol | CN1CCC(CC1)(O)\C=C\[Sn](CCCC)(CCCC)CCCC
product | [4-(2,4-Difluoro-phenylamino)-phenyl]-{5-[(E)-2-(4-hydroxy-1-methyl-piperidin-4-yl)-vinyl]-2-methoxy-phenyl}-methanone | FC1=C(C=CC(=C1)F)NC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)\C=C\C1(CCN(CC1)C)O)OC | C28H28F2N2O3
